Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Tylenol / Neurontin
 
Attending: ___.
 
Chief Complaint:
Abdominal pain, nausea, vomiting
 
Major Surgical or Invasive Procedure:
Paracentesis, ___

 
History of Present Illness:
___ year old male, with ETOH and Hep C cirrhosis,
child's class B (MELD 16) presenting to the ED with acute
abdominal pain concerning for recurrent bowel obstruction. His
surgical history is pertinent for a prior umbilical repair, and
an exploratory laparotomy for a closed loop obstruction 
requiring
lysis of an internal hernia. 

The patient was in his usual state of health until 5 days ago
when he started having mild diffuse abdominal pain associated
with nausea and multiple episodes of emesis. Denies bilious or
bloody emesis. Last episode of emesis was 2 days ago but still
complains of nausea and abdominal pain. He also mentions that 
his
last bowel movement was 2 days ago, same time when he last 
passed
flatus. He also mentions some subjective fevers, but denies
taking his temperature.  Off note, on ___ this year he 
presented
to the ED with similar symptoms which required hospitalization
for SBO that was managed conservatively. Other than that he
denies shortness of breath, palpitations, night sweats,
unexplained weight loss, fatigue/malaise/lethargy, changes in
appetite, trouble with sleep, dysuria.

In the ED, VSS. Patient with persistent nausea and abdominal
pain. No NG tube in place. Abdomen soft but tender to palpation
in right hemi-abdomen. No peritoneal. Labs w/o leukocytosis or
acidosis. Imaging studies suggestive of SBO with transition in
right hemi-abdomen. No signs of bowel ischemia. Moderate 
ascites.

 
Past Medical History:
 - Hepatitis C (genotype 3)  
 - Cirrhosis, Child's Class C due EtOH and HCV d/b hepatic 
encephalopathy, portal hypertension with ascites and esophageal 
varices, portal hypertensive gastropathy  
 - Gastric & Duodenal ulcers  
 - Insomnia  
 - Umbilical hernia  
 - Sacral osteoarthritis  
 
Past Surgical History:  
 - Umbilical hernia repair (___)  
 -SBO requiring Ex lap & repair of ruptured umbilical hernia 
with lysis of adhesions (___)
 - Abdominal Hematoma evacuation (___)  
 - Abdominal incision opened, wound vac placed (___) 
 
Social History:
___
Family History:
Sister and brother both with "collapsed lungs." No family 
history of liver disease.
 
Physical Exam:
VITAL SIGNS: T97.7, BP 156/76, HR 58, RR 18, SpO2 97%RA
GENERAL: AAOx3 NAD
HEENT: NCAT, no scleral icterus
CARDIOVASCULAR: rrr, S1S2
PULMONARY: CTABL, non-labored respirations
GASTROINTESTINAL: soft, minimally distended per baseline, mildly 
TTP over R abdomen - much improved from admission and consistent 
with baseline. No guarding, rebound, or peritoneal signs.
EXT/MS/SKIN: No cyanosis, clubbing, or edema
NEUROLOGICAL: Strength and sensation grossly intact
 
Pertinent Results:
Admission labs:

___ 06:10PM BLOOD WBC-7.8 RBC-3.46* Hgb-12.0* Hct-35.9* 
MCV-104* MCH-34.7* MCHC-33.4 RDW-15.6* RDWSD-58.6* Plt ___
___ 06:10PM BLOOD Glucose-99 UreaN-5* Creat-0.6 Na-134* 
K-3.6 Cl-98 HCO3-25 AnGap-11
___ 06:10PM BLOOD ALT-16 AST-44* AlkPhos-122 TotBili-2.7*
___ 06:10PM BLOOD Albumin-2.7* Calcium-8.1* Phos-2.9 
Mg-1.4*
___ 06:10PM BLOOD Lipase-___ year old male  with ETOH and Hep C cirrhosis, child's class 
B, presented to the ED with acute abdominal pain, nausea and 
vomiting concerning for recurrent bowel obstruction. His initial 
CT abdomen showed slightly dilated loops of jejunum with 
relative transition point right hemiabdomen followed by 
decompressed bowel, distal small bowel loops were normal  in 
caliber with air and stool present.  No pneumatosis, bowel wall 
thickening, or pneumoperitoneum were seen. He was admitted to 
Transplant surgery and kept NPO with IV fluid. Serial abdominal 
exams were done noting increased distension and tenderness. No 
free air was seen on KUB. A nasogastric tube was placed to 
decompress the stomach and a Foley catheter was placed to 
closely monitor urine output. He was given a dulcolax 
suppository with passage of a BM. 

Lactate increased the next day to 2.1 then 3.1. A CT was done 
that showed colonic thickening but no obstruction. He continued 
to require IV fluid bolus for low u/o.Lactate decrease to 1.9.  
By hospital day 4, exam was improved and lactate had decreased. 
The foley was removed. On ___, he tolerated NG clamp trials 
and the NG was removed. 

On ___, a clear diet was tolerated and this advanced to 
regular diet that he also tolerated. However, over night, he c/o 
sudden right hemi-abdominal pain and gas pain. Simethicone was 
administered with relief. He was moving his bowels without 
difficulty. 

Hepatology was consulted and recommended a paracentesis. This 
done on ___ with 0.4 liter removed. Cell count was notable for 
WBC-TNC and zero polys. Culture of ascites was negative. 

On ___, he felt ready for discharge to home. His home Nadolol 
was held as his heart rates were in the ___. SBP ranged 
between 104-160s. 

On ___, t.bili increased from 2.0 to 2.4. A liver duplex was 
done to evaluate his portal vein given h/o portal vein thrombus. 
U/S demonstrated patent main and right portal vein, small 
ascites and small right pleural effusion. 

He was discharged to home in stable condition. 

 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Famotidine 20 mg PO BID 
2. Furosemide 20 mg PO DAILY 
3. Lactulose 30 mL PO QID 
4. Lidocaine 5% Patch 1 PTCH TD QAM 
5. OxyCODONE (Immediate Release) 5 mg PO Q6H:PRN pain 
6. Potassium Chloride 20 mEq PO DAILY 
7. Spironolactone 50 mg PO DAILY 
8. Sulfameth/Trimethoprim SS 1 TAB PO DAILY SBP prophylaxis 
9. Bisacodyl ___AILY:PRN constipation 
10. Calcium 600 + D(3) (calcium carbonate-vitamin D3) 600 
mg(1,500mg) -400 unit oral DAILY 
11. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1.  Simethicone 40-80 mg PO TID:PRN gas pain  
2.  Bisacodyl ___AILY:PRN constipation  
3.  Calcium 600 + D(3) (calcium carbonate-vitamin D3) 600 
mg(1,500mg) -400 unit oral DAILY  
4.  Famotidine 20 mg PO BID  
5.  Furosemide 20 mg PO DAILY  
6.  Lactulose 30 mL PO QID  
7.  Multivitamins 1 TAB PO DAILY  
8.  OxyCODONE (Immediate Release) 5 mg PO Q6H:PRN pain 
continue to follow up with your outpatient provider for 
management  
9.  Potassium Chloride 20 mEq PO DAILY 
Hold for K > 5.0  
10.  Spironolactone 50 mg PO DAILY  
11.  Sulfameth/Trimethoprim SS 1 TAB PO DAILY SBP prophylaxis  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Cirrhosis
Abdominal pain

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Please call Dr. ___ office at ___ for fever > 101, 
chills, nausea, vomiting, diarrhea, constipation, increased 
abdominal pain, pain not controlled by your pain medication, 
swelling of the abdomen or ankles, yellowing of the skin or 
eyes, inability to tolerate food, fluids or medications, or any 
other concerning symptoms.

You may return to your usual healthy diet. If your abdomen 
becomes distended, you stop passing gas, or you begin burping, 
go back to having only sips of clear liquids. If your symptoms 
worsen or do not resolve, call the clinic number above or come 
to the ED.

No driving if taking narcotic pain medications.

You did not have surgery on this admission and do not need a 
surgical follow-up visit. However, please keep the appointment 
we have made for you with your usual hepatologist Dr. ___ to 
monitor your liver function.

 
Followup Instructions:
___